parameters sky130_fd_pr__special_nfet_01v8__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__voff_slope_spectre=0.0
subckt sky130_fd_pr__special_nfet_01v8 (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_nfet_01v8 (d g s b) m_sky130_fd_pr__special_nfet_01v8__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 3.9e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=3.996598e-09 + mc_mm_switch * 0 * (4.148e-9 * 0.9635 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=-6.60999999999998e-10 lint=2.40595e-8 vth0=-3.719569900e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=9.910949335e-08 wvth0=5.247573396e-07 pvth0=-6.920552270e-14 k1=0.90707349 k2=-4.158704441e-01 lk2=3.754317674e-08 wk2=1.078155588e-07 pk2=-1.421882371e-14 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.145270833e+00 ldsub=-3.325433265e-07 wdsub=-1.060764231e-06 pdsub=1.398946476e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=-0.20753 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) nfactor=-5.755837763e+00 lnfactor=1.003645766e-06 wnfactor=2.035946931e-06 pnfactor=-2.685027173e-13 eta0=6.038887884e-04 leta0=-7.964144934e-11 weta0=-2.476359805e-10 peta0=3.265848075e-17 etab=-0.043998 u0=2.605260337e-02 lu0=-7.293063698e-11 wu0=8.579147789e-10 pu0=-1.131426590e-16 ua=-1.561180684e-09 lua=5.276330447e-17 wua=2.136374256e-16 pua=-2.817471732e-23 ub=3.405791239e-18 lub=-1.493883661e-25 wub=-2.026197031e-25 pub=2.672168906e-32 uc=-1.237407073e-10 luc=2.838075260e-17 wuc=1.236835930e-16 puc=-1.631151593e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=2.566624309e+05 lvsat=-1.371976914e-02 wvsat=-5.100271349e-02 pvsat=6.726288858e-9 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=0.0 b1=0.0 keta=-9.287047565e-01 lketa=1.134610167e-07 wketa=3.968495321e-07 pketa=-5.233691314e-14 dwg=0.0 dwb=0.0 pclm=2.580720676e-02 lpclm=2.048676292e-08 wpclm=1.189335188e-07 ppclm=-1.568507139e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.249543200e-07 lalpha0=-9.674041071e-15 walpha0=2.285430417e-22 palpha0=-3.014048952e-29 alpha1=0.85 beta0=1.626781834e+01 lbeta0=-2.463297501e-07 wbeta0=4.001776688e-17 pbeta0=-5.275779813e-24 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=1.85814e-8 dwc=-2.252e-8 xpart=0.0 cgso=2.4133302e-10 cgdo=2.4133302e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.001131080901 mjs=0.44 pbsws=0.2 cjsws=3.101378147e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=2.011274009e-10 mjswgs=0.8 tnom=30.0 kt1=-1.530400733e-01 lkt1=-8.957445444e-09 wkt1=-8.505551818e-17 pkt1=1.121713833e-23 kt2=-0.028878939 at=9.760153675e+03 lat=4.478722719e-03 wat=-2.698588651e-11 pat=3.558932804e-18 ute=-9.330005132e-01 lute=-4.563645557e-08 wute=-2.312923665e-07 pute=3.050306858e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@elseif l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.9e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=3.996598e-09 + mc_mm_switch * 0 * (4.148e-9 * 0.9635 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=-6.60999999999998e-10 lint=2.40595e-8 vth0=-2.522595364e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=3.827378328e-07 wvth0=1.366349450e-06 pvth0=-1.801955318e-13 k1=0.90707349 k2=-1.214234996e+00 lk2=1.428322922e-07 wk2=4.202331718e-07 pk2=-5.542077093e-14 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.091390987e+00 ldsub=-3.254375986e-07 wdsub=-1.039679862e-06 pdsub=1.371140199e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=-0.20753 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) nfactor=-5.755837948e+00 lnfactor=1.003645791e-06 wnfactor=2.035947004e-06 pnfactor=-2.685027268e-13 eta0=3.773678949e-04 leta0=-4.976765037e-11 weta0=-1.589933803e-10 peta0=2.096820599e-17 etab=-0.043998 u0=1.180195927e-01 lu0=-1.220162915e-08 wu0=-3.513079141e-08 pu0=4.633083902e-15 ua=-1.561180192e-09 lua=5.276323956e-17 wua=2.136372329e-16 pua=-2.817469192e-23 ub=3.405756539e-18 lub=-1.493837899e-25 wub=-2.026061243e-25 pub=2.671989827e-32 uc=-1.174583905e-10 luc=2.755223438e-17 wuc=1.212251842e-16 puc=-1.598729852e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=5.803855899e+05 lvsat=-5.641270307e-02 wvsat=-1.776827075e-01 pvsat=2.343297315e-8 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=0.0 b1=0.0 keta=-9.287045780e-01 lketa=1.134609932e-07 wketa=3.968494623e-07 pketa=-5.233690393e-14 dwg=0.0 dwb=0.0 pclm=2.580727704e-02 lpclm=2.048675365e-08 wpclm=1.189334913e-07 ppclm=-1.568506776e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.249543128e-07 lalpha0=-9.674040130e-15 walpha0=3.020736542e-21 palpha0=-3.983777534e-28 alpha1=0.85 beta0=1.626781828e+01 lbeta0=-2.463297431e-07 wbeta0=2.089785767e-14 pbeta0=-2.756024742e-21 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=1.85814e-8 dwc=-2.252e-8 xpart=0.0 cgso=2.4133302e-10 cgdo=2.4133302e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.001131080901 mjs=0.44 pbsws=0.2 cjsws=3.101378147e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=2.011274009e-10 mjswgs=0.8 tnom=30.0 kt1=-1.530400709e-01 lkt1=-8.957445766e-09 wkt1=-1.040710629e-15 pkt1=1.372498781e-22 kt2=-0.028878939 at=9.760154460e+03 lat=4.478722616e-03 wat=-3.342397977e-10 pat=4.407987581e-17 ute=-9.447486384e-01 lute=-4.408710108e-08 wute=-2.266950667e-07 pute=2.989677209e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@end

ends // sky130_fd_pr__special_nfet_01v8
