parameters sky130_fd_pr__special_nfet_01v8__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_nfet_01v8__voff_slope_spectre=0.0
subckt sky130_fd_pr__special_nfet_01v8 (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_nfet_01v8 (d g s b) m_sky130_fd_pr__special_nfet_01v8__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 3.9e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.363696e-09 + mc_mm_switch * 0 * (4.148e-9 * 1.052 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=5.4034e-8 lint=-5.393e-9 vth0=-5.540233200e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=2.045062455e-07 wvth0=2.988973523e-07 pvth0=-5.702543026e-14 k1=0.90707349 k2=-2.325260563e-01 lk2=1.449116137e-08 wk2=2.601281122e-08 pk2=-4.962880202e-15 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.308003241e+00 ldsub=-5.121217546e-07 wdsub=-8.409553457e-07 pdsub=1.604425066e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=-0.20753 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) nfactor=-1.343760560e+01 lnfactor=2.647399117e-06 wnfactor=1.621325926e-06 pnfactor=-3.093262881e-13 eta0=0.0 etab=-0.043998 u0=-1.159522987e-02 lu0=6.218713526e-09 wu0=-1.281479905e-08 pu0=2.444884252e-15 ua=-1.072897415e-09 lua=-5.273245830e-18 wua=1.329016093e-16 pua=-2.535576643e-23 ub=-6.163134324e-18 lub=1.399223441e-24 wub=5.016781923e-25 pub=-9.571317560e-32 uc=-9.715009267e-11 luc=3.598397435e-17 wuc=9.805419118e-17 puc=-1.870736692e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=6.616972904e+05 lvsat=-7.806300910e-02 wvsat=-1.217336119e-01 pvsat=2.322506889e-8 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=3.055925333e-06 lb0=-5.964526183e-13 wb0=-3.644712082e-13 pb0=6.953600393e-20 b1=2.309501807e-06 lb1=-4.486595707e-13 wb1=-1.372677015e-12 pb1=2.618875569e-19 keta=-1.131181040e+00 lketa=2.027683223e-07 wketa=3.716864668e-07 pketa=-7.091257426e-14 dwg=0.0 dwb=0.0 pclm=2.438497216e-02 lpclm=2.990857260e-08 wpclm=1.113922828e-07 ppclm=-2.125208807e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.673659202e-07 lalpha0=-2.208651686e-14 walpha0=1.811849002e-22 palpha0=-3.456754693e-29 alpha1=0.85 beta0=1.734774334e+01 lbeta0=-5.623881607e-07 wbeta0=3.171862772e-17 pbeta0=-6.053824109e-24 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=-6.928e-9 dwc=3.2175e-8 xpart=0.0 cgso=2.4384e-10 cgdo=2.4384e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.00163782571 mjs=0.44 pbsws=0.2 cjsws=4.49076474e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=2.91230478e-10 mjswgs=0.8 tnom=30.0 kt1=-1.137700734e-01 lkt1=-2.045047852e-08 wkt1=-6.743006153e-17 pkt1=1.286470930e-23 kt2=-0.028878939 at=-9.874846353e+03 lat=1.022523927e-02 wat=-2.139387652e-11 pat=4.081666702e-18 ute=-1.015327828e+00 lute=-5.031320101e-08 wute=-1.833645463e-07 pute=3.498338833e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@elseif l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.9e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_nfet_01v8__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.363696e-09 + mc_mm_switch * 0 * (4.148e-9 * 1.052 * (sky130_fd_pr__special_nfet_01v8__toxe_slope / sqrt(l * w * mult))) toxm=4.148e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=5.4034e-8 lint=-5.393e-9 vth0=-1.307351324e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__vth0_slope / sqrt(l * w * mult)) lvth0=1.237487853e-07 wvth0=1.795588670e-07 pvth0=-3.425731800e-14 k1=0.90707349 k2=9.806228507e-02 lk2=-4.858046592e-08 wk2=-6.719062103e-08 pk2=1.281902982e-14 k3=2.0 k3b=0.54 w0=0.0 dvt0=0.0 dvt1=0.53 dvt2=-0.032 dvt0w=-3.58 dvt1w=1670600.0 dvt2w=0.068 dsub=3.429490745e+00 ldsub=-5.352998694e-07 wdsub=-8.752065606e-07 pdsub=1.669771589e-13 minv=0.0 voffl=5.8197729e-9 lpe0=1.0325e-7 lpeb=-7.082e-8 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.002052 cit=0.0 voff=-0.20753 + mc_mm_switch * 0 * (sky130_fd_pr__special_nfet_01v8__voff_slope / sqrt(l * w * mult)) nfactor=-1.343760374e+01 lnfactor=2.647398761e-06 wnfactor=1.621325400e-06 pnfactor=-3.093261878e-13 eta0=0.0 etab=-0.043998 u0=1.766145641e-01 lu0=-2.968908023e-08 wu0=-6.587716269e-08 pu0=1.256844036e-14 ua=-1.072899214e-09 lua=-5.272902601e-18 wua=1.329021165e-16 pua=-2.535586320e-23 ub=-6.163090404e-18 lub=1.399215062e-24 wub=5.016658097e-25 pub=-9.571081316e-32 uc=-1.113153575e-10 luc=3.868650857e-17 wuc=1.020478326e-16 puc=-1.946929779e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=-1.306845638e+05 lvsat=7.311235533e-02 wvsat=1.016641890e-01 pvsat=-1.939610396e-8 a0=1.5 ags=1.25 a1=0.0 a2=0.42385546 b0=3.055917419e-06 lb0=-5.964511084e-13 wb0=-3.644689769e-13 pb0=6.953557823e-20 b1=2.309490899e-06 lb1=-4.486574896e-13 wb1=-1.372673939e-12 pb1=2.618869702e-19 keta=-1.131181136e+00 lketa=2.027683406e-07 wketa=3.716864939e-07 pketa=-7.091257942e-14 dwg=0.0 dwb=0.0 pclm=2.438503395e-02 lpclm=2.990856081e-08 wpclm=1.113922654e-07 ppclm=-2.125208474e-14 pdiblc1=0.35697215 pdiblc2=0.0084061121 pdiblcb=-0.10329577 drout=0.50332666 pscbe1=791419880.0 pscbe2=1.0e-12 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=65.968 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=0.0 prwg=0.021507 wr=1.0 alpha0=1.673659118e-07 lalpha0=-2.208651526e-14 walpha0=2.542867870e-21 palpha0=-4.851435998e-28 alpha1=0.85 beta0=1.734774328e+01 lbeta0=-5.623881488e-07 wbeta0=1.759190127e-14 pbeta0=-3.356277034e-21 agidl=0.0 bgidl=2300000000.0 cgidl=0.5 egidl=0.8 toxref=4.148e-9 dlcig=0.0 aigbacc=1.0 bigbacc=0.0 cigbacc=0.0 nigbacc=0.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=0.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=0.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=-6.928e-9 dwc=3.2175e-8 xpart=0.0 cgso=2.4384e-10 cgdo=2.4384e-10 cgbo=1.0e-13 cgdl=0.0 cgsl=0.0 clc=1.0e-7 cle=0.6 cf=1.4067e-12 ckappas=0.6 vfbcv=-1.0 acde=0.4 moin=6.9 noff=3.4037 voffcv=-0.17287 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.84 noia=2.5e+42 noib=0.0 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-1.0e-7 af=1.0 kf=0.0 tnoia=15000000.0 tnoib=9900000.0 rnoia=0.94 rnoib=0.26 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=0.00275 jsws=6.0e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=11.7 xjbvs=1.0 pbs=0.729 cjs=0.00163782571 mjs=0.44 pbsws=0.2 cjsws=4.49076474e-11 mjsws=0.0009 pbswgs=0.95578 cjswgs=2.91230478e-10 mjswgs=0.8 tnom=30.0 kt1=-1.137700705e-01 lkt1=-2.045047907e-08 wkt1=-8.760734360e-16 pkt1=1.671425220e-22 kt2=-0.028878939 at=-9.874845431e+03 lat=1.022523909e-02 wat=-2.813644242e-10 pat=5.368038546e-17 ute=-9.888383039e-01 lute=-5.536703130e-08 wute=-1.908327907e-07 pute=3.640822481e-14 ua1=-2.3847336e-11 ub1=7.0775317e-19 uc1=1.4718625e-10 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2928 tpb=0.0012287 tcj=0.000792 tpbsw=0.0 tcjsw=1.0e-5 tpbswg=0.0 tcjswg=0.0 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=9.8e-9 lkvth0=0.0 wkvth0=2.0e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=-2.7e-8 lku0=0.0 wku0=0.0 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.2 steta0=0.0 type=1
@end

ends // sky130_fd_pr__special_nfet_01v8
